US06441004B1
Methyl 5-acetylamino-N-(3,4-dichlorobenzyl)indole-2-carboxylate
Methyl N-(3,4-dichlorobenzyl)-5-aminoindole-2-carboxylate (0.28 g) was dissolved in acetic anhydride and heated to 90° C. for 1 hour. Upon cooling, the title compound crystallised as white needles, was filtered off, washed with diethyl ether and dried in vacuo to yield the desired end product (0.1 g, 32%); NMR δ(CD3SOCD3) 2.03 (s, 3H), 3.80 (s, 3H), 5.80 (s, 2H), 6.88 (m, 1H), 7.36 (m, 3H), 7.52 (d, 2H), 8.08 (s, 1H), 9.88 (s, 1H); M/z (−) 391 (M+), 389.

reactant | Methyl N-(3,4-dichlorobenzyl)-5-aminoindole-2-carboxylate | 0.28 g | ClC=1C=C(CN2C(=CC3=CC(=CC=C23)N)C(=O)OC)C=CC1Cl | C17H14Cl2N2O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | Methyl 5-acetylamino-N-(3,4-dichlorobenzyl)indole-2-carboxylate | 0.1 g, 32% | C(C)(=O)NC=1C=C2C=C(N(C2=CC1)CC1=CC(=C(C=C1)Cl)Cl)C(=O)OC | C19H16Cl2N2O3
